US05273999
A mixture of 1.14 g (3.37 mmol) of 2,3-dihydro-8-propyl-7-[[(trifluoromethyl)sulfonyl]oxy]-4H-1-benzopyran-4-one, 0.94 g (3.62 mmol) of 2-[(5-hexynyl)oxy]benzenepropanoic acid methyl ester, 4.9 mL of dry triethylamine, 0.197 g (0.28 mmol) of dichlorobis(triphenylphosphine)palladium (II), and 21 mL of dry dimethylformamide was stirred and heated at 100° C. for 3 hr. The mixture was cooled, poured into ice-water, and worked-up with ether in the usual manner. The orange-red, oily residue was flash chromatographed on silica gel. Elution with 1:1 hexane-ether gave 1.25 g (83%) of 2-[6-(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)-5-hexynyloxy]benzenepropanoic acid methyl ester as a yellow oil.

reactant | 2,3-dihydro-8-propyl-7-[[(trifluoromethyl)sulfonyl]oxy]-4H-1-benzopyran-4-one | 3.37 mmol, 1.14 g | C(CC)C1=C(C=CC=2C(CCOC21)=O)OS(=O)(=O)C(F)(F)F | C13H13F3O5S
reactant | 2-[(5-hexynyl)oxy]benzenepropanoic acid methyl ester | 3.62 mmol, 0.94 g | COC(CCC1=C(C=CC=C1)OCCCCC#C)=O | C16H20O3
reactant | triethylamine | 4.9 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 21 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.28 mmol, 0.197 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ether | CCOCC | C4H10O
product | 2-[6-(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)-5-hexynyloxy]benzenepropanoic acid methyl ester | 1.25 g, 83% | COC(CCC1=C(C=CC=C1)OCCCCC#CC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C28H32O5
